US05274089
N-((4'-Chloro)benzyl)-5α-androstan-17β-amine
4-Chlorobenzaldehyde (0.464 g), 5α-androstan-17β-amine(4.40g) glacial acetic acid (0.99 g), sodium cyanoborohydride (0.21 g) and tetrahydrofuran (5 ml) were added to methanol (11 ml). The resulting mixture was warmed to dissolve the solid in solution and allowed to stir overnight at room temperature. Excess solvent was removed under reduced pressure. Water was added and made basic (pH 9) with 50% aqueous NAOH. The mixture was extracted with ether and the organic layer became cloudy. Celite was used to filter the organic layer. The aqueous layer was washed with ether and the combined organic layers were dried (NaSO4), filtered and concentrated. The crude solid was mixed with 10 g of flash silica gel and dissolved in ethyl acetate. The solvent was removed and the silica was poured on top of the chromatographic column. The compound was eluted with 50% ethyl acetate-hexane. The title compound was obtained as a solid which was recrystallized from acetone (0.364 g) mp 101°-102° C. (PLA2, diabetes)

reactant | 4-Chlorobenzaldehyde | 0.464 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 5α-androstan-17β-amine | 4.40g | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@H]3CCCC[C@]3(C)[C@H]1CC2)N | C19H33N
reactant | sodium cyanoborohydride | 0.21 g | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 11 ml | CO | CH4O
product | N-((4'-Chloro)benzyl)-5α-androstan-17β-amine | ClC1=CC=C(CN[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4CCCC[C@]4(C)[C@H]2CC3)C=C1 | C26H38ClN
